US08044041B2
A mixture of (3-aminomethyl-phenyl)-(2-morpholin-4-yl-ethyl)-amine hydrochloride (212 mg, 0.781 mmol), 6-bromo-4-chloro-2H-phthalazin-1-one (184 mg, 0.710), Pd2(dba)3 (65 mg, 0.071 mmol), rac-BINAP (142 mg, 0.228 mmol), NaOtBu (266 mg, 2.768 mmol) and DMA (5 mL) was heated to 85° C. until the reaction was completed by HPLC. The reaction was filtered through celite and purified by preparatory HPLC to yield 4-chloro-6-[3-(2-morpholin-4-yl-ethylamino)-benzylamino]-2H-phthalazin-1-one hydroformate (62 mg) as a light brown solid. 1H (400 MHz, d6-DMSO) δ: 2.29 (m, 4H), 2.36 (t, 2H), 3.02 (m, 2H), 3.48 (m, 4H), 4.24 (d, 2H), 5.38 (bs, 1H), 6.40 (dd, 1H), 6.47 (d, 1H), 6.51 (s, 1H), 6.77 (s, 1H), 6.97 (t, 1H), 7.07 (dd, 1H), 7.54 (t, 1H), 7.85 (d, 1H), 8.10 (s, 1H), 12.26 (s, 1H) ppm; m/z (M+1) 413.93.

reactant | (3-aminomethyl-phenyl)-(2-morpholin-4-yl-ethyl)-amine hydrochloride | 0.781 mmol, 212 mg | Cl.NCC=1C=C(C=CC1)NCCN1CCOCC1
reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 184 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | rac-BINAP | 0.228 mmol, 142 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 2.768 mmol, 266 mg | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.071 mmol, 65 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 4-chloro-6-[3-(2-morpholin-4-yl-ethylamino)-benzylamino]-2H-phthalazin-1-one | 62 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=CC(=CC=C1)NCCN1CCOCC1)=O | C21H24ClN5O2
